data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_205268_2,[C:1]([C:2]([O:6][H:9])([H:12])[H:13])([N:3]([H:10])[H:11])([O:4][H:7])[O:5][H:8]>>[C:1]([C:2]([O:5][H:8])([H:12])[H:13])([N:3]([H:10])[H:11])([O:4][H:7])[O:6][H:9],70.90122500001556
MR_591714_2,[C:1](\[C:2]([H:12])([H:13])[H:14])(=[N:6]/[N:7]([C:4]([C:3]([H:15])([H:16])[H:17])=[O:8])[N:5]([H:10])[H:11])[H:9]>>[C:1]([C:2]([H:12])([H:13])[H:14])([C:4]([C:3]([H:15])([H:16])[H:17])=[O:8])(/[N:6]=[N:7]/[N:5]([H:10])[H:11])[H:9],56.92429000002704
MR_643744_1,[C:1](/[C:3]([C:2]([H:14])([H:15])[H:16])=[C:4](\[O:6][H:8])[H:10])(/[C:5](=[N:7]\[H:9])[H:13])([H:11])[H:12]>>[C:1](=[C:3]([C:2]([H:14])([H:15])[H:16])[C:4](/[C:5](=[N:7]\[H:9])[H:13])([O:6][H:8])[H:10])([H:11])[H:12],69.86083000000278
MR_55592_0,[C:1]([O:7][N:3]([N:4]([H:8])[H:9])/[C:5](=[C:6](\[C:2]([H:15])([H:16])[H:17])[H:11])[H:10])([H:12])([H:13])[H:14]>>[C:1]([O:7][C:6]([C:2]([H:15])([H:16])[H:17])(/[C:5](=[N:3]/[N:4]([H:8])[H:9])[H:10])[H:11])([H:12])([H:13])[H:14],24.48442249996191
MR_537109_1,[C:1](/[C:3]([N:2]([N:4]([H:10])[H:11])/[C:5](=[C:6](/[O:7][H:9])[H:14])[H:13])=[N:8]/[H:12])([H:15])([H:16])[H:17]>>[C:1](/[C:3]([C:6](/[C:5](=[N:2]\[N:4]([H:10])[H:11])[H:13])([O:7][H:9])[H:14])=[N:8]/[H:12])([H:15])([H:16])[H:17],67.79070749998596
MR_7009_1,[C:1]1([N:6]([H:11])[H:12])([H:10])[C:2]([H:13])([H:14])[C:3]([C:4]([H:17])([H:18])[H:19])([H:15])[C:5]1([O:7][H:9])[O:8][H:16]>>[C:1]([C:2]([C:3]([C:4]([H:17])([H:18])[H:19])([H:15])[H:16])([H:13])[H:14])([C:5]([O:7][H:9])=[O:8])([N:6]([H:11])[H:12])[H:10],66.86890999999477
MR_445396_0,[C:1]([N:6]([C:2]([H:13])([H:14])[H:15])[C:3]([H:16])([H:17])[H:18])(/[C:7]([C:5]([H:22])([H:23])[H:24])=[N:9]\[C:4]([H:19])([H:20])[H:21])([N:8]([H:11])[H:12])[H:10]>>[C:1]1([N:8]([H:11])[H:12])([H:10])[C:7]([C:5]([H:22])([H:23])[H:24])([N:6]([C:2]([H:13])([H:14])[H:15])[C:3]([H:16])([H:17])[H:18])[N:9]1[C:4]([H:19])([H:20])[H:21],62.87738250001368
MR_691767_1,[N:1]1([H:9])[C:4]([O:6][N:3]([H:10])[H:11])([H:12])[O:8][C:2](=[O:7])[O:5]1>>[N:1]([C:4](=[O:8])[H:12])([O:5][C:2]([O:6][N:3]([H:10])[H:11])=[O:7])[H:9],48.49257250002054
MR_83417_1,[C:1]([N:2]([C:3](=[O:6])[H:9])[H:7])(/[C:4](=[N:5]\[H:8])[H:12])([H:10])[H:11]>>[C:1]1([H:10])([H:11])[N:2]([H:7])[C:4]1([N:5]([C:3](=[O:6])[H:9])[H:8])[H:12],71.59837750000321
MR_452399_2,[C:1]1([C:2]([H:15])([H:16])[H:17])([O:8][H:10])[N:3]([N:5]([H:11])[H:12])[C:4](=[O:9])[C:7]([H:14])=[C:6]1[H:13]>>[C:1]([C:2]([H:15])([H:16])[H:17])(/[C:6](=[C:7](\[C:4]([N:3]([N:5]([H:11])[H:12])[H:10])=[O:9])[H:14])[H:13])=[O:8],51.71102000002733
MR_538734_1,[C:1]([C:2](/[C:8](=[C:6](\[C:4]([H:21])([H:22])[H:23])[O:9][H:10])[H:17])([H:15])[H:16])([N:5]([C:3]([H:18])([H:19])[H:20])[H:11])([N:7]([H:13])[H:14])[H:12]>>[C:1]1([N:7]([H:13])[H:14])([H:12])[C:2]([H:15])([H:16])[C:8]1([C:6]([C:4]([H:21])([H:22])[H:23])([N:5]([C:3]([H:18])([H:19])[H:20])[H:11])[O:9][H:10])[H:17],66.74027249999853
MR_123399_0,[C:1]([N:2]([H:9])[H:12])([N:3]([H:10])[H:11])(/[C:5](=[C:4](\[O:6][H:7])[H:13])[H:14])[H:8]>>[C:1]([N:2]([H:9])[H:12])([N:3]([H:10])[H:11])=[C:5]([C:4]([O:6][H:7])([H:8])[H:13])[H:14],64.20266250002058
MR_102412_1,[C:1]([C:4]([C:3]([N:5]([H:11])[H:12])=[O:8])(/[C:6](=[N:2]/[H:10])[H:13])[O:7][H:9])([H:14])([H:15])[H:16]>>[C:1](/[C:4](=[C:6](/[N:2]([C:3]([N:5]([H:11])[H:12])=[O:8])[H:10])[H:13])[O:7][H:9])([H:14])([H:15])[H:16],69.60229999997779
MR_510588_2,[C:1]([N:5]([C:2]([H:15])([H:16])[H:17])[N:7]([H:11])[H:12])(/[C:6]([C:4]([H:21])([H:22])[H:23])=[N:9]\[C:3]([H:18])([H:19])[H:20])([N:8]([H:13])[H:14])[H:10]>>[C:1]1([N:8]([H:13])[H:14])([H:10])[C:6]([C:4]([H:21])([H:22])[H:23])([N:5]([C:2]([H:15])([H:16])[H:17])[N:7]([H:11])[H:12])[N:9]1[C:3]([H:18])([H:19])[H:20],67.00005750002035
MR_593765_1,[N:1]([N:3]([H:10])[H:11])([O:6][H:9])/[N:7]=[C:5](\[C:2]([N:4]([H:12])[H:13])=[O:8])[H:14]>>[N:1](\[N:3]([H:10])[H:11])=[N:7]\[C:5]1([H:14])[C:2]([N:4]([H:12])[H:13])([O:6][H:9])[O:8]1,28.74577500001081
MR_335151_0,[N:1]([N:2]([O:5][H:7])[H:8])([N:3]([H:9])[H:10])[O:4][H:6]>>[N:1]([N:2]([O:4][H:6])[H:8])([N:3]([H:9])[H:10])[O:5][H:7],61.2860425000008
MR_115170_2,[C:1](=[C:2](\[C:3](=[C:4]([H:10])[H:11])[H:9])[H:8])(\[O:5][H:6])[H:7]>>[C:1]([C:2]1([H:8])[C:3]([H:6])([H:9])[C:4]1([H:10])[H:11])(=[O:5])[H:7],58.77227749999832
MR_143363_1,[C:1](/[N:3]=[C:6](/[C:5]1([H:11])[N:2]([O:7][H:9])/[C:4]1=[N:8]\[H:10])[H:12])([H:13])([H:14])[H:15]>>[C:1]([n:3]1/[c:4](=[N:8]/[H:10])[n:2]([O:7][H:9])[c:5]([H:11])[c:6]1[H:12])([H:13])([H:14])[H:15],51.408564999970565
MR_397227_1,[C@@:1]([C:3]([H:14])([H:15])[H:16])([N:4]([H:9])[H:10])([O:6][N:8][C:5]([H:17])[H:18])[O:7][C:2]([H:11])([H:12])[H:13]>>[C@:1]([C:3]([H:14])([H:15])[H:16])([N:4]([H:9])[H:10])([O:6][O:7][C:2]([H:11])([H:12])[H:13])[N:8]=[C:5]([H:17])[H:18],71.19803250001524
MR_516602_0,[C:1]([O:4]/[C:2]([N:3]([H:8])[H:9])=[N:6]/[O:5][H:7])([H:10])([H:11])[H:12]>>[C:1]([N:6]([C:2]([N:3]([H:8])[H:9])=[O:4])[O:5][H:7])([H:10])([H:11])[H:12],52.52049499998108
